US07435815B2
N-Ethyl-N-pyridin-2-ylmethyl-2-p-tolylamino-acetamide
A suspension of ethyl-pyridin-2-ylmethyl-amine (29.0 mmol) and DIPEA (78.0 mmol) in DMF (50 mL) was cooled to −20° C. and added to a cold (−20° C.) solution of p-tolylamino-acetic acid (26.0 mmol) and TBTU (34.0 mmol) in DMF (100 mL). The reaction mixture was stirred for 15 min at −20° C. Water (300 mL) and ethyl acetate (400 mL) were added, the layers were separated and the organic layer washed with water (4×100 mL). The combined aqueous layers were extracted with ethyl acetate (200 mL). The combined organic layers were washed with NaOH solution (1.0 mol/L, 100 mL) and brine (100 mL) and dried with Na2SO4. The solvents were removed in vacuo and the obtained solid was dissolved in ethanol. By addition of a solution of hydrogen chloride in ether a byproduct precipitated which was filtered off. Dilution of the remaining solution with ether led to precipitation of the desired acetamide, which was obtained as a white solid (5.3 g).

reactant | ethyl-pyridin-2-ylmethyl-amine | 29.0 mmol | C(C)NCC1=NC=CC=C1 | C8H12N2
reactant | DIPEA | 78.0 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | p-tolylamino-acetic acid | 26.0 mmol | C1(=CC=C(C=C1)NCC(=O)O)C | C9H11NO2
reactant | TBTU | 34.0 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 300 mL | O | H2O
product | N-Ethyl-N-pyridin-2-ylmethyl-2-p-tolylamino-acetamide | 5.3 g | C(C)N(C(CNC1=CC=C(C=C1)C)=O)CC1=NC=CC=C1 | C17H21N3O
